US08309546B2
5-{8-[4-Acetyl-cis-3,5-dimethylpiperazin-1-yl]-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
Triethylamine (73.7 μl, 0.53 mmol) was added to a methylene chloride (10 ml)-dimethylformamide (1.5 ml) mixture solution of 5-{9-(cyclopropylmethyl)-8-[cis-3,5-dimethylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine (102.3 mg, 0.22 mmol) at room temperature followed by the addition of acetic anhydride (24.9 μl, 0.26 mmol) with ice cooling. The resulting mixture was stirred at room temperature for 3 days followed by the addition of acetic anhydride (6.2 μl, 0.07 mmol) and the resulting mixture was further stirred for 3 days. The reaction mixture was poured into methylene chloride-methanol (10:1) and the resulting mixture was washed with saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to 0.10 give the title compound (107.7 mg, 97%) as a pale yellow solid.

reactant | Triethylamine | 0.53 mmol, 73.7 μl | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 5-{9-(cyclopropylmethyl)-8-[cis-3,5-dimethylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.22 mmol, 102.3 mg | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1C[C@H](N[C@H](C1)C)C)N1CCOCC1)C=1C=NC(=NC1)N | C23H32N10O
reactant | acetic anhydride | 0.26 mmol, 24.9 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.07 mmol, 6.2 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 5-{8-[4-Acetyl-cis-3,5-dimethylpiperazin-1-yl]-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 107.7 mg, 97% | C(C)(=O)N1[C@@H](CN(C[C@@H]1C)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1)C | C25H34N10O2
